US06329405B1
(103a) N-[(4-Chlorophenyl)-(3-nitrophenyl)methyl}-N-[(R)-1-(3-fluorophenyl)ethyl]amine
Following a similar procedure to that described in Example (1a), 880 mg of 4-chlorophenyl 3-nitrophenyl ketone, 886 mg of (R)-1-(3-fluorophenyl)ethylamine hydrochloride, 2.58 ml of triethylamine, 0.44 ml of titanium tetrachloride, 890 mg of sodium cyanoborohydride and 0.29 ml of acetic acid were reacted, to obtain 1.25 g of the title compound as a yellow oil.

reactant | 4-chlorophenyl 3-nitrophenyl ketone | 880 mg | [N+](=O)([O-])C=1C=C(C=CC1)C(=O)C1=CC=C(C=C1)Cl | C13H8ClNO3
reactant | (R)-1-(3-fluorophenyl)ethylamine hydrochloride | 886 mg | Cl.FC=1C=C(C=CC1)[C@@H](C)N
reactant | triethylamine | 2.58 ml | C(C)N(CC)CC | C6H15N
reactant | sodium cyanoborohydride | 890 mg | C(#N)[BH3-].[Na+]
catalyst | titanium tetrachloride | 0.44 ml | [Ti](Cl)(Cl)(Cl)Cl
solvent | acetic acid | 0.29 ml | C(C)(=O)O | C2H4O2
product | N-[(4-Chlorophenyl)-(3-nitrophenyl)methyl}-N-[(R)-1-(3-fluorophenyl)ethyl]amine | 1.25 g | ClC1=CC=C(C=C1)C(N[C@H](C)C1=CC(=CC=C1)F)C1=CC(=CC=C1)[N+](=O)[O-] | C21H18ClFN2O2
